US04000153
In the manner given in Example 5, 2'-chloro-5-nitro- 2-[3-(hydroxymethyl)-5-methyl-4H-1,2,4-triazol-4-yl]-benzophenone is treated with phosphorus tribromide to give 2'-chloro-5-nitro-2-[3-(bromomethyl)-5methyl-4H-1,2,4-triazol-4-yl]benzophenone.

reactant | 2'-chloro-5-nitro- 2-[3-(hydroxymethyl)-5-methyl-4H-1,2,4-triazol-4-yl]-benzophenone | ClC1=C(C=CC=C1)C(C1=C(C=CC(=C1)[N+](=O)[O-])N1C(=NN=C1C)CO)=O | C17H13ClN4O4
reactant | phosphorus tribromide | P(Br)(Br)Br | Br3P
product | 2'-chloro-5-nitro-2-[3-(bromomethyl)-5methyl-4H-1,2,4-triazol-4-yl]benzophenone | ClC1=C(C=CC=C1)C(C1=C(C=CC(=C1)[N+](=O)[O-])N1C(=NN=C1C)CBr)=O | C17H12BrClN4O3
